US06919353B2
1-Methanesulfonyl-4-methanesulfonylmethyl-benzene
To a solution of 4-methanesulfonylbenzyl chloride (2 g, 10 mmol) in DMF (20 mL) at 21° C. was added sodium methanesulfinate (1.5 g, 15 mmol). After 18 h, the mixture is poured into cold water (100 mL), stirred for 30 min then filtered off to afford the title compound as a white solid.

reactant | 4-methanesulfonylbenzyl chloride | 10 mmol, 2 g | CS(=O)(=O)C1=CC=C(CCl)C=C1 | C8H9ClO2S
reactant | sodium methanesulfinate | 15 mmol, 1.5 g | CS(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Methanesulfonyl-4-methanesulfonylmethyl-benzene | CS(=O)(=O)C1=CC=C(C=C1)CS(=O)(=O)C | C9H12O4S2
